US06762180B1
(7) 4-[N-(2-dimethylamino-ethyl)-N-methylsulphonyl-amino]-3-chloro-nitrobenzene
Prepared from 2-fluoro-5-nitro-chlorobenzene, N-(2-dimethylamino-ethyl)-methanesuiphonamide and sodium hydride as base

reactant | 2-fluoro-5-nitro-chlorobenzene | FC1=C(C=C(C=C1)[N+](=O)[O-])Cl | C6H3ClFNO2
reactant | N-(2-dimethylamino-ethyl)-methanesuiphonamide | CN(CCNS(=O)(=O)C)C | C5H14N2O2S
reactant | sodium hydride | [H-].[Na+]
product | 4-[N-(2-dimethylamino-ethyl)-N-methylsulphonyl-amino]-3-chloro-nitrobenzene | CN(CCN(S(=O)(=O)C)C1=C(C=C(C=C1)[N+](=O)[O-])Cl)C | C11H16ClN3O4S
